US07482346B2
7.3. 2-(methylamino)-2-oxoethyl 4-[3-(3′-chlorobiphenyl-3-yl)propyl]piperazine-1-carboxyl ate
A suspension of 0.14 g (0.35 mmol) of 2-(methylamino)-2-oxoethyl 4-[3-(3-bromophenyl)propyl]piperazine-1-carboxylate, prepared in step 7.2., in a mixture of 4 ml of toluene and 0.6 ml of ethanol is admixed with 0.08 g (0.07 mol) of the tetrakis(triphenylphosphine)palladium complex, 1.05 ml (2.1 mmol) of a 2M aqueous solution of sodium carbonate and 0.22 g (1.4 mmol) of 3-chlorobenzeneboronic acid. The mixture is heated to 150° C. under microwave irradiation for 5 minutes and the organic phase is recovered by filtration on a cartridge equipped with a frit and containing celite and sodium sulphate. The cartridge is rinsed with toluene and the filtrate is concentrated under reduced pressure. The product is purified by chromatography on silica gel, eluting with a 90/10 mixture of ethyl acetate and methanol. The eluate is subsequently taken up in n-heptane, to give 0.086 g (0.18 mmol) of product in the form of white crystals.

reactant | 2-(methylamino)-2-oxoethyl 4-[3-(3-bromophenyl)propyl]piperazine-1-carboxylate | 0.35 mmol, 0.14 g | BrC=1C=C(C=CC1)CCCN1CCN(CC1)C(=O)OCC(=O)NC | C17H24BrN3O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-chlorobenzeneboronic acid | 1.4 mmol, 0.22 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 0.6 ml | C(C)O | C2H6O
product | 2-(methylamino)-2-oxoethyl 4-[3-(3′-chlorobiphenyl-3-yl)propyl]piperazine-1-carboxyl ate | 0.18 mmol, 0.086 g | ClC=1C=C(C=CC1)C1=CC(=CC=C1)CCCN1CCN(CC1)C(=O)OCC(=O)NC | C23H28ClN3O3
